US05635510
30.1 Synthesis of 2-chloro-N-(2-chloroethyl)-N-tert-butoxycarbonyl-ethanamine
Combine bis-(2-chloroethyl)amine hydrochloride (500 mmol) and dichloromethane (350 mL). Add dropwise, N,N-diisopropylethylamine (1.1 mol). Cool the mixture to -30° C. Add dropwise, a solution of di-tert-butyl dicarbonate (550 mmol) in dichloromethane (100 mL). Stir the mixture and allow it to warm to ambient temperature. Concentrate the mixture in vacuo to give a residue. Purify the residue to give the title compound.

reactant | bis-(2-chloroethyl)amine hydrochloride | 500 mmol | Cl.ClCCNCCCl
reactant | N,N-diisopropylethylamine | 1.1 mol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyl dicarbonate | 550 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
product | 2-chloro-N-(2-chloroethyl)-N-tert-butoxycarbonyl-ethanamine | ClCCN(C(=O)OC(C)(C)C)CCCl | C9H17Cl2NO2
